US06414149B1
Step D: 2-(1-Hydroxy-ethyl)-3H-pyrimidin-4-one
To a solution of ethyl 3-hydroxy-acrylate sodium salt (prepared according to the method of Preparation Twelve, Step C, 1301 g, 9.42 mol) in water (1.3 L) was added a solution of 2-hydroxy-propionamidine hydrochloride (prepared according to the method of Preparation Twelve, Step B, 610 g, 4.9 mol) in water (1.3 L) at ambient temperature and stirred for 48 h. The solution was adjusted to pH 7.0 with acetic acid then continuously extracted with chloroform for 48 h. The extract was dried over sodium sulfate and filtered. The filtrate was concentrated to a solid, slurried in ethyl ether, filtered, and dried to give the title compound as a solid, 232 g (38%). mp: 121-124° C.; 1H NMR (DMSO-d6, 400 MHz) δ1.30 (d, 3H), 4.46 (q, 1H), 5.62 (br s, 1H), 6.13 (d, 1H), 7.80 (d, 1H).

reactant | ethyl 3-hydroxy-acrylate sodium salt | [Na].OC=CC(=O)OCC
reactant | 2-hydroxy-propionamidine hydrochloride | Cl.OC(C(=N)N)C
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1.3 L | O | H2O
solvent | water | 1.3 L | O | H2O
product | 2-(1-Hydroxy-ethyl)-3H-pyrimidin-4-one | OC(C)C1=NC=CC(N1)=O | C6H8N2O2
